US08486952B2
tert-butyl 1-(2-chloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)pyrrolidin-3-yl(methyl)carbamate (Preparation Hm) (148 mg, 0.331 mmol) and 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (Preparation A) (74.1 mg, 0.331 mmol) were combined as per Example 26 to give the crude tert-butyl 1-(2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)pyrrolidin-3-yl(methyl)carbamate (104 mg, 0.164 mmol, 49.5% yield) which was used without further purification. LC-MS (M+H)+=634.4.

reactant | tert-butyl 1-(2-chloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)pyrrolidin-3-yl(methyl)carbamate | 0.331 mmol, 148 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2CC(CC2)N(C(OC(C)(C)C)=O)C | C23H28ClFN4O2
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
product | tert-butyl 1-(2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)pyrrolidin-3-yl(methyl)carbamate | 0.164 mmol, 104 mg, 49.5% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2CC(CC2)N(C(OC(C)(C)C)=O)C)OC | C33H37ClFN7O3
